US05670503
A mixture of 2-chloroacetyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (80 mg, 0.215 mmol), morpholine (37 mg, 0.430 mmol), and triethylamine (22 mg, 0.215 mmol) in 1,2-dichloroethane (2 ml) was stirred for 24 hours at ambient temperature. After dilution of dichloromethane, the mixture was washed with an aqueous saturated sodium bicarbonate solution, and brine. The organic phase was dried over sodium sulfate, and concentrated in vacuo. The residue was purified by chromatography on silica gel (eluent:ethyl acetate ethyl acetate/methanol; 20/1), and the obtained oil was crystallized from diisopropyl ether to give 7-(4-fluorophenyl)-2-morpholinoacetyl-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (50 mg).

reactant | 2-chloroacetyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 0.215 mmol, 80 mg | ClCC(=O)N1NCCN2C1=C(C(=N2)C2=CC=C(C=C2)F)C2=CC=NC=C2 | C18H15ClFN5O
reactant | morpholine | 0.430 mmol, 37 mg | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.215 mmol, 22 mg | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
product | 7-(4-fluorophenyl)-2-morpholinoacetyl-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 50 mg | FC1=CC=C(C=C1)C1=NN2C(N(NCC2)C(CN2CCOCC2)=O)=C1C1=CC=NC=C1 | C22H23FN6O2
